US08790691B2
4-(1-(dimethylamino)-4-((9Z,12Z)-octadeca-9,12-dienyloxy)butan-2-yloxy)-4-oxobutanoic Acid
NEt3 (100 μL, 0.74 mmol, 1.0 equiv) was added dropwise to a dry dichloromethane solution (10 mL) of 4-(3-(dimethylamino)-2-((9Z,12Z)-octadeca-9,12-dienyloxy)propoxy)-4-oxobutanoic acid and the resultant was stirred for 15 minutes under argon at room temperature. PyBOP (0.48 g, 0.93 mmol, 1.25 equiv) was added in one portion and the resultant was stirred for 10 minutes. Prednisone (0.32 g, 0.89 mmol, 1.2 equiv) was added to the mixture and the resultant was stirred at room temperature for 18 hours and then concentrated to provide a thick yellow oil, (90% pure). Purification by flash column chromatography (5-15% MeOH in chloroformand (0-15% MeOH in EtOAc) provided the desired product

reactant | NEt3 | 0.74 mmol, 100 μL, 1.0 equiv | CCN(CC)CC | C6H15N
reactant | 4-(3-(dimethylamino)-2-((9Z,12Z)-octadeca-9,12-dienyloxy)propoxy)-4-oxobutanoic acid | CN(CC(COC(CCC(=O)O)=O)OCCCCCCCC\C=C/C\C=C/CCCCC)C | C27H49NO5
reactant | PyBOP | 0.93 mmol, 0.48 g, 1.25 equiv | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | Prednisone | 0.89 mmol, 0.32 g, 1.2 equiv | C[C@]12CC(=O)[C@H]3[C@H]([C@@H]1CC[C@@]2(C(=O)CO)O)CCC4=CC(=O)C=C[C@]34C | C21H26O5
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(1-(dimethylamino)-4-((9Z,12Z)-octadeca-9,12-dienyloxy)butan-2-yloxy)-4-oxobutanoic Acid | CN(CC(CCOCCCCCCCC\C=C/C\C=C/CCCCC)OC(CCC(=O)O)=O)C | C28H51NO5
